US04710573
3-(1-Methyl-4-piperidinyl)-1-trichloroethoxycarbonyl-1H-indazole hydrochloride
A mixture of 2.3 g of trichloroethyl chloroformate, 3.0 g of potassium carbonate, 2.1 g of 3-(1-methyl-4-piperidinyl)-1H-indazole and chloroform was heated under reflux for 16 hrs. The reaction mixture was cooled, filtered, and the filtrate was concentrated to a solid in vacuo. The solid was triturated with ethyl acetate, collected, and recrystallized from ethanol to yield 3.9 g (91%) of product, mp 190°-192° C.

reactant | trichloroethyl chloroformate | 2.3 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(1-methyl-4-piperidinyl)-1H-indazole | 2.1 g | CN1CCC(CC1)C1=NNC2=CC=CC=C12 | C13H17N3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(1-Methyl-4-piperidinyl)-1-trichloroethoxycarbonyl-1H-indazole hydrochloride | 3.9 g, 91% | Cl.CN1CCC(CC1)C1=NN(C2=CC=CC=C12)C(=O)OCC(Cl)(Cl)Cl | InChI=1S/C16H18Cl3N3O2.ClH/c1-21-8-6-11(7-9-21)14-12-4-2-3-5-13(12)22(20-14)15(23)24-10-16(17,18)19;/h2-5,11H,6-10H2,1H3;1H
